US05324725
5 g 1-(2-bromoethyl)-2-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline were added to 10 ml of concentrated sulfuric acid cooled to 0° C. The reaction mixture was kept at a temperature of about 0° C., and a mixture of 1.15 ml of concentrated sulfuric acid and 0.84 ml of nitric acid was added dropwise as a nitrating agent. The reaction mixture was kept for a further hour at 0° C. and one more hour at room temperature. To work up the reaction mixture it was poured onto 30 g of ice and extracted with dichloromethane. The organic phase was dried and concentrated. The residue which remained was heated in 10 of ethanol, and the resulting yellowish precipitate was filtered out. 2.26 g of 1-(2-bromoethyl)-2-methyl-8-nitro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline were obtained as an ochre-colored powder.

reactant | 1-(2-bromoethyl)-2-methyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | 5 g | BrCCC1=C(N2CCCC3=CC=CC1=C23)C | C14H16BrN
reactant | nitric acid | 0.84 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 1.15 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(2-bromoethyl)-2-methyl-8-nitro-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline | 2.26 g | BrCCC1=C(N2CCCC3=CC(=CC1=C23)[N+](=O)[O-])C | C14H15BrN2O2
